US08058449B2
(S,R) and (S,S)-2-{3-[2-Carboxy-1-(3-iodo-phenyl)-ethyl]-ureido}-pentanedioic acid (23)
To a solution of (±)2-{3-[1-(3-Iodo-phenyl)-2-methoxycarbonyl-ethyl]-ureido}-pentanedioic acid di-tert-butyl ester (289 mg, 0.49 mmol) was dissolved in methanol (3 mL) and 2M LiOH (0.5 mL) was added and the reqaction stirred at room temperature overnight. The reaction was diluted with water (20 mL) and the organic layer was extracted with ethyl acetate (2×20 mL) then acidified with 1N HCl to pH ˜2. The aqueous layer was extracted with ethyl acetate (3×20 mL), dried over sodium sulfate and concentrated to afford the crude product (206 mg, 0.36 mmol, 73%) as a white solid. To the crude material was added DCM (2 mL) followed by TFA (2 mL) and the reaction was stirred at room temperature overnight. Concentration followed by recrystallization from ethyl acetate afforded the desired product (22 mg, 0.047 mmol, 10%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 12.39 (br, 3H), 7.64 (br, 1H), 7.56 (m, 1H), 7.30 (bm, 1H), 7.10 (bm, 1H), 6.72 (bm, 1H), 6.34 (bm, 1H), 4.94 (br, 1H), 4.03 (bm, 1H), 2.64 (br, 2H), 2.20 (br, 2H), 1.86 (br, 1H), 1.71 (br, 1H). ESMS m/z: 463 (M−H)+.

reactant | (±)2-{3-[1-(3-Iodo-phenyl)-2-methoxycarbonyl-ethyl]-ureido}-pentanedioic acid di-tert-butyl ester | 0.49 mmol, 289 mg | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)NC(=O)NC(CC(=O)OC)C1=CC(=CC=C1)I)=O | C24H35IN2O7
reactant | LiOH | 2M, 0.5 mL | [Li+].[OH-]
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | (S,S)-2-{3-[2-Carboxy-1-(3-iodo-phenyl)-ethyl]-ureido}-pentanedioic acid | 0.047 mmol, 22 mg, 10% | C(=O)(O)C[C@@H](C1=CC(=CC=C1)I)NC(N[C@H](C(=O)O)CCC(=O)O)=O | C15H17IN2O7
